US07501412B2
While heating a mixture of dimethylamine hydrochloride (2.45 g) and 37% aqueous formalin solution (2.43 g) to 50° C., acetic anhydride (9.4 mL) was added dropwise thereto slowly. After the completion of the dropwise addition, the mixture was heated at 60° C. for 30 min. 3-Isopropyl-2H-isoquinolin-1-one (1.87 g) was added, and the mixture was stirred with heating at 80-100° C. for 1 day. After the completion of the reaction, the solvent was evaporated. The obtained residue was dissolved in 1N hydrochloric acid, and the mixture was washed with chloroform. Aqueous potassium carbonate solution was added to alkalify the aqueous layer, and the mixture was extracted with chloroform, and the organic layer was dried over magnesium sulfate. The solvent was evaporated, and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=30:1) to give 4-dimethylaminomethyl-3-isopropyl-2H-isoquinolin-1-one (0.39 g).

reactant | dimethylamine hydrochloride | 2.45 g | Cl.CNC
reactant | formalin | 2.43 g | C=O | CH2O
reactant | acetic anhydride | 9.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-Isopropyl-2H-isoquinolin-1-one | 1.87 g | C(C)(C)C=1NC(C2=CC=CC=C2C1)=O | C12H13NO
product | 4-dimethylaminomethyl-3-isopropyl-2H-isoquinolin-1-one | 0.39 g | CN(C)CC1=C(NC(C2=CC=CC=C12)=O)C(C)C | C15H20N2O
